US04751225
A mixture of 4-(3,5-difluorophenoxy)phenol (11.1 g, 50.0 mmol), ethyl 2-bromopropionate (9.96 g, 55.0 mmol), potassium carbonate (7.25 g, 52.5 mmol) and N,N-dimethylformamide (50 ml) was stirred at an inner temperature of 70° to 80° C. for 3 hours. After allowed to cool, the reaction mixture was poured into ice-water and extracted with toluene. The toluene layer was dried over anhydrous magnesium sulfate, and the solvent was removed to give ethyl 2-[4-(3,5-difluorophenoxy)phenoxy]propionate (15.6 g).

reactant | 4-(3,5-difluorophenoxy)phenol | 50.0 mmol, 11.1 g | FC=1C=C(OC2=CC=C(C=C2)O)C=C(C1)F | C12H8F2O2
reactant | ethyl 2-bromopropionate | 55.0 mmol, 9.96 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 52.5 mmol, 7.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[4-(3,5-difluorophenoxy)phenoxy]propionate | 15.6 g | FC=1C=C(OC2=CC=C(OC(C(=O)OCC)C)C=C2)C=C(C1)F | C17H16F2O4
